US07365098B2
1.85 g of 1-(2,4-dichlorophenyl)ethylamine, 1.63 g of trimethyl orthopropionate and 0.46 g of Cyanamide were heated under reflux for about 30 minutes. The volatile components were removed under reduced pressure and the residue was then titrated with water. Filtration and drying gave 2.22 g of N′-cyano-N-[1-(2,4-dichlorophenyl)ethyl]propaneimidamide of logP of 2.56.

reactant | 1-(2,4-dichlorophenyl)ethylamine | 1.85 g | ClC1=C(C=CC(=C1)Cl)C(C)N | C8H9Cl2N
reactant | trimethyl orthopropionate | 1.63 g | C(CC)(OC)(OC)OC | C6H14O3
reactant | Cyanamide | 0.46 g | N#CN | CH2N2
product | N′-cyano-N-[1-(2,4-dichlorophenyl)ethyl]propaneimidamide | 2.22 g | C(#N)N=C(CC)NC(C)C1=C(C=C(C=C1)Cl)Cl | C12H13Cl2N3
